US06294573B1
ethyl (2E)-3-({4-[4-(trifluoromethoxy)phenoxy]phenyl}sulfonyl)-2-propenoate
The title compound was prepared from ethyl glyoxalate and 4-(4′-trifluoromethoxyphenyloxy)-phenyl methyl sulfone following the procedures of Examples 126A, 126B and 75B.

reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | 4-(4′-trifluoromethoxyphenyloxy)-phenyl methyl sulfone | CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F | C14H11F3O4S
product | ethyl (2E)-3-({4-[4-(trifluoromethoxy)phenoxy]phenyl}sulfonyl)-2-propenoate | FC(OC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)/C=C/C(=O)OCC)C=C1)(F)F | C18H15F3O6S
